US07169780B2
Step 5: Methyl 5-(benzoyloxy)-2-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-6-hydroxypyrimidine-4-carboxylate.
To a stirred solution of methyl 2-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-5,6-dihydroxypyrimidine-4-carboxylate in pyridine, 1.1 eq of benzoic anhydride were added and stirring prolonged at room temperature over night. Pyridine was evaporated and residue was taken in ethyl acetate and washed with 1 N HCl and brine. Organic layer was separated, dried (Na2SO4), filtered and concentrated by rotary evaporation and residue was purified by flash column chromatography (SiO2, petroleum ether/ethyl acetate 60/40 v/v as eluant). Collection and evaporation of appropriate fractions afforded title product.

reactant | methyl 2-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-5,6-dihydroxypyrimidine-4-carboxylate | C(C1=CC=CC=C1)OC(=O)NC(C)(C)C1=NC(=C(C(=N1)C(=O)OC)O)O | C17H19N3O6
reactant | benzoic anhydride | 1.1 eq | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Methyl 5-(benzoyloxy)-2-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-6-hydroxypyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1O)C(C)(C)NC(=O)OCC1=CC=CC=C1)C(=O)OC | C24H23N3O7
